US07488740B2
2. 7-(3-(Trifluoromethyl)pyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridin-4-amine
Heat a mixture of 5-chloro-2-(3-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridine (62 mg, 0.2 mmol), 2-amino-5-trifluoromethylpyridine (32.4 mg, 0.2 mmol), xantphos (11.6 mg, 0.02 mmol), Pd2(dba)3 (18.3 mg, 0.02 mmol) and Cs2CO3 (130 mg, 0.4 mmol) in dioxane (2.0 mL) at 100° C. for 20 hours. Cool the mixture, concentrate under vacuum, dilute with EtOAc/water (5.0 mL each), filter through celite, wash celite with EtOAc (2×5 mL) and dry combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum to afford crude product. Purify by preparative TLC using EtOAc as eluent to afford title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) δ 10.15 (s, 1H), 9.1 (d, 1H, J=2.2 Hz), 9.0 (d, 1H, J=1.1 Hz), 8.95 (d, 1H, J=1.2 Hz), 8.68 (s, 1H), 8.50 (d, 1H, J=1.3 Hz), 8.43 (d, 1H, J=2.0 Hz), 8.12 (dd, 1H), 8.0(d, 1H, J=2.2 Hz), 7.81 (m, 1H), 7.49 (d, 1H, J=2.2 Hz). MS=436.08 (M+H).

reactant | 5-chloro-2-(3-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridine | 0.2 mmol, 62 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1C(F)(F)F | C14H7ClF3N3
reactant | 2-amino-5-trifluoromethylpyridine | 0.2 mmol, 32.4 mg | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
reactant | xantphos | 0.02 mmol, 11.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.4 mmol, 130 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(3-(Trifluoromethyl)pyridin-2-yl)-N-(5-(trifluoromethyl)pyridin-2-yl)-[1,8]naphthyridin-4-amine | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5
